US09278922B2
(R)-tert-butyl 2-phenyl-2-(piperidin-1-yl)acetate
To a slurry of (R)-tert-butyl 2-amino-2-phenylacetate HCL (Chem-Impex, 0.200 g, 0.821 mmol), MP-cyanoborohydride (2.44 mmol/g; 500 mg) and acetic acid (0.141 mL, 2.462 mmol) in MeOH (2.00 mL) and CH2Cl2 (2 mL) at rt was added glutaraldehyde (0.155 mL, 0.821 mmol) as a 50% solution in water. The reaction was stirred for 30 min., the reaction filtered, washed with MeOH and concentrated. The residue was taken up in CH2Cl2, washed with saturated NaHCO3, dried (Na2SO4) and concentrated to give the title compound. MS (DCI; M+H) m/z=276.

reactant | (R)-tert-butyl 2-amino-2-phenylacetate HCL | 0.821 mmol, 0.200 g | Cl.N[C@@H](C(=O)OC(C)(C)C)C1=CC=CC=C1
reactant | cyanoborohydride | 500 mg | C(#N)[BH3-]
reactant | acetic acid | 2.462 mmol, 0.141 mL | C(C)(=O)O | C2H4O2
reactant | glutaraldehyde | 0.821 mmol, 0.155 mL | C(CCCC=O)=O | C5H8O2
solvent | MeOH | 2.00 mL | CO | CH4O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (R)-tert-butyl 2-phenyl-2-(piperidin-1-yl)acetate | C1(=CC=CC=C1)[C@H](C(=O)OC(C)(C)C)N1CCCCC1 | C17H25NO2
